US07834007B2
N-(2-Fluoro-6-formylphenyl)pivalamide.
N-(2-Bromo-6-fluorophenyl)pivalamide (25.5 mmol, 7.0 g) was dissolved in tetrahydrofuran (200 mL). Mixture was cooled to −78° C. 2M Butyllithium in cyclohexane (62.0 mmol, 31.0 mL) was added to the mixture drop-wise. Reaction mixture was held at −78° C. for 30 minutes. A solution of N,N-dimethylformamide (129 mmol, 10.0 mL) in tetrahydrofuran (30 mL) was added to the reaction mixture drop-wise. Reaction was held at −78° C. for 30 minutes. Reaction was quenched with aqueous ammonium chloride then the mixture was allowed to warm to room temperature. Mixture was extracted 2× ethyl acetate. Combined organic layers were dried (magnesium sulfate), filtered and concentrated. Silica gel chromatography afforded the desired product as white solid in 80% yield. 1H NMR (300 MHz, CDCl3): δ=9.93 (d, J=1.83, 1H), 9.14 (bs, 1H), 7.56-7.50 (m, 1H), 7.42-7.25 (m, 2H), 1.34 (s, 9H). MS m/e (M+H)+=224.2.

reactant | N-(2-Bromo-6-fluorophenyl)pivalamide | 25.5 mmol, 7.0 g | BrC1=C(C(=CC=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
reactant | Butyllithium | 2M | C(CCC)[Li]
reactant | cyclohexane | 62.0 mmol, 31.0 mL | C1CCCCC1 | C6H12
reactant | N,N-dimethylformamide | 129 mmol, 10.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(2-Fluoro-6-formylphenyl)pivalamide | 80% yield | FC1=C(C(=CC=C1)C=O)NC(C(C)(C)C)=O | C12H14FNO2
